US06982348B2
2) ethyl 4-(4-fluorophenyl)-5-methyl-2-(1-methylethyl)furan-3-carboxylate
To a solution of ethyl isobutyrylacetate (20.06 g, 126.8 mmol) and 1-fluoro-4-(2-nitro-1-propenyl)benzene (23.0 g, 127 mmol) in ethanol (100 ml) was added piperidine (12.5 ml, 127 mmol) at room temperature, and the mixture was stirred overnight at room temperature and at 80° C. for 1 hr. The solvent of the reaction solution was evaporated under-reduced pressure, water (50 ml) and conc. hydrochloric acid (30 ml) were added to the residue, and the mixture was stirred at room temperature for 1 hr. The reaction solution was extracted twice with ethyl acetate and the collected organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1) to give the objective substance.

reactant | ethyl isobutyrylacetate | 126.8 mmol, 20.06 g | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | 1-fluoro-4-(2-nitro-1-propenyl)benzene | 127 mmol, 23.0 g | FC1=CC=C(C=C1)C=C(C)[N+](=O)[O-] | C9H8FNO2
reactant | piperidine | 127 mmol, 12.5 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4-(4-fluorophenyl)-5-methyl-2-(1-methylethyl)furan-3-carboxylate | FC1=CC=C(C=C1)C=1C(=C(OC1C)C(C)C)C(=O)OCC | C17H19FO3
